US09034866B2
Methyl 9-bromo-10-fluoro-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-4-carboxylate (4 g) was reacted with ethyl formate similar to as described in Example 8 or Example 9 to give (2.3 g) of methyl 9-bromo-10-fluoro-3-formyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7(12),8,10-pentaene-4-carboxylate following triteration from water.

reactant | Methyl 9-bromo-10-fluoro-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7,9,11-pentaene-4-carboxylate | 4 g | BrC=1C=C2C3=NC(=CN3C3CC(C2=CC1F)C3)C(=O)OC | C15H12BrFN2O2
reactant | ethyl formate | C(=O)OCC | C3H6O2
solvent | water | O | H2O
product | methyl 9-bromo-10-fluoro-3-formyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7(12),8,10-pentaene-4-carboxylate | 2.3 g | BrC1=CC=2C3=NC(=C(N3C3CC(C2C=C1F)C3)C=O)C(=O)OC | C16H12BrFN2O3
